US05157026
To a mixture of 2,6-diamino-4-trifluoromethylpyridine (173 mg) in H2SO4 (3 mL) at 0° C. was added HNO3 (0.048 mL, d=1.40). The stirred mixture was sequentially warmed to RT, aged 1.5 hours, poured onto 50 g ice, neutralized with NH4OH, extracted with EtOAc, filtered through 20 g SiO2 (washed with EtOAc until yellow color eluted), and concentrated to give 70 mg of 2,6-diamino-3-nitro-4-trifluoromethylpyridine as a yellow solid. A 1:1 THF/MeOH solution of the nitro compound (65 mg) was hydrogenated (1 atm H2, Ra-Ni, 16 hours at RT), filtered, concentrated, and converted to the title compound by the method outlined in Example 21.

reactant | 2,6-diamino-4-trifluoromethylpyridine | 173 mg | NC1=NC(=CC(=C1)C(F)(F)F)N | C6H6F3N3
reactant | HNO3 | 0.048 mL | [N+](=O)(O)[O-] | HNO3
reactant | NH4OH | [NH4+].[OH-]
solvent | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
product | 2,6-diamino-3-nitro-4-trifluoromethylpyridine | 70 mg | NC1=NC(=CC(=C1[N+](=O)[O-])C(F)(F)F)N | C6H5F3N4O2
